US08420823B2
N-(6-phenoxypyridin-3-yl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 6-phenoxypyridine-3-amine as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 6-phenoxypyridine-3-amine | O(C1=CC=CC=C1)C1=CC=C(C=N1)N | C11H10N2O
product | N-(6-phenoxypyridin-3-yl)-3-(piperidin-1-ylsulfonyl)benzamide | O(C1=CC=CC=C1)C1=CC=C(C=N1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C23H23N3O4S
